US04111850
Bis-1,3(N-3',6'-dimethylcarbazolyl)propane. A mixture of 25.0 g (157 mmol) of p-methylphenylhydrazine hydrochloride and 17.6 g (157 mmol) of 4-methylcyclohexanone was stirred overnight in 75 ml of 95% ethanol. The mixture was cooled to 0° C, filtered, and the product recrystallized from ethanol/water to give 20.7 g (66%) of 3,6-dimethyl-1,2,3,4-tetrahydrocarbazole, mp 118.5°-20° C (lit. mp 112° C).

reactant | p-methylphenylhydrazine hydrochloride | 157 mmol, 25.0 g | Cl.CC1=CC=C(C=C1)NN
reactant | 4-methylcyclohexanone | 157 mmol, 17.6 g | CC1CCC(CC1)=O | C7H12O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 3,6-dimethyl-1,2,3,4-tetrahydrocarbazole | 20.7 g, 66% | CC1CCC=2NC3=CC=C(C=C3C2C1)C | C14H17N
